US07531532B2
3-[4-(4-Aminophenoxy)pyridin-2-yl]-1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methylurea
After adding 20% palladium hydroxide-carbon (50 mg) to a solution of 1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methyl-3-[4-(4-nitrophenoxy)pyridin-2-yl]urea (186 mg) in tetrahydrofuran (5.0 ml), the mixture was stirred for 12 hours at room temperature under a hydrogen atmosphere. The catalyst was filtered. The filtrate was concentrated to provide the title compound (121 mg, 69.8%) as a pale yellow oil.

reactant | 1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methyl-3-[4-(4-nitrophenoxy)pyridin-2-yl]urea | 186 mg | CN(CCN1CCC(CC1)N(C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-])C)C | C22H30N6O4
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
catalyst | palladium hydroxide carbon | 50 mg | [OH-].[Pd+2].[OH-].[C]
product | 3-[4-(4-Aminophenoxy)pyridin-2-yl]-1-[1-(2-dimethylaminoethyl)piperidin-4-yl]-1-methylurea | 121 mg, 69.8% | NC1=CC=C(OC2=CC(=NC=C2)NC(N(C)C2CCN(CC2)CCN(C)C)=O)C=C1 | C22H32N6O2
